US09212182B2
A solution of (Z)-ethyl 3-(2-amino-5-bromophenyl)but-2-enoate (3.3817 g, 11.90 mmol), xantphos (1.033 g, 1.785 mmol), pd2(dba)3 (0.545 g, 0.595 mmol), and n,n-diisopropylethylamine (6.24 ml, 35.7 mmol) in 24 mL dioxane was heated to 80° C. then was treated with benzyl mercaptan (2.252 ml, 19.04 mmol). After stirring for 36 hours, an additional portion of xantphos (1.033 g, 1.785 mmol), pd2(dba)3 (0.545 g, 0.595 mmol), and n,n-diisopropylethylamine (6.24 ml, 35.7 mmol) was added, and the reaction mixture was heated to 90° C. overnight. The reaction mixture was then poured into water and was extracted with DCM. The organics were dried over MgSO4 and concentrated. Purification of the crude residue by silica gel column chromatography (0-100% EtOAc/heptane) gave (Z)-ethyl 3-(2-amino-5-(benzylthio)phenyl)but-2-enoate (2.26 g, 6.90 mmol, 58.0% yield). m/z (ESI) 328.2 (M+H)+.

reactant | (Z)-ethyl 3-(2-amino-5-bromophenyl)but-2-enoate | 11.90 mmol, 3.3817 g | NC1=C(C=C(C=C1)Br)\C(=C/C(=O)OCC)\C | C12H14BrNO2
reactant | xantphos | 1.785 mmol, 1.033 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | n,n-diisopropylethylamine | 35.7 mmol, 6.24 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl mercaptan | 19.04 mmol, 2.252 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | xantphos | 1.785 mmol, 1.033 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | n,n-diisopropylethylamine | 35.7 mmol, 6.24 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 24 mL | O1CCOCC1 | C4H8O2
catalyst | pd2(dba)3 | 0.595 mmol, 0.545 g | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | pd2(dba)3 | 0.595 mmol, 0.545 g | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | (Z)-ethyl 3-(2-amino-5-(benzylthio)phenyl)but-2-enoate | 6.90 mmol, 2.26 g, 58.0% yield | NC1=C(C=C(C=C1)SCC1=CC=CC=C1)\C(=C/C(=O)OCC)\C | C19H21NO2S
